US07115589B2
[4-(tert-Butoxycarbonylamino-methyl)-2-(diethoxy-phosphoryl)-phenyl]-phosphonic Acid Diethyl Ester:
Trifluoro-methanesulfonic acid 5-(tert-butoxycarbonylamino-methyl)-2-trifluoromethanesulfonyloxy-phenyl ester (5 g, 10.0 mmol), diethyl phosphite (2.8 mL, 20.3 mmol), N-methylmorpholine (2.7 mL, 25.1 mmol) and tetrakis(triphenylphosphine)-palladium(0) (1.2 g) were dissolved in anhydrous acetonitrile (100 mL) and heated in a sealed tube at 90° C. for 48 h. After cooling, the mixture was diluted with EtOAc (200 mL) and washed with water, 1 N HCl and brine. The organic layer was dried over magnesium sulfate, concentrated, and purified by silica gel chromatography (5% MeOH/CHCl3) to yield the product as a colorless oil (2.0 g, 42%). 1H NMR (300 Mhz, CDCl3) δ 1.35 (m, 12 H), 3.79 (bs, 2 H), 3.96 (m, 8H), 7.45 (m, 1H), 7.91 (m, 2H).

reactant | Trifluoro-methanesulfonic acid 5-(tert-butoxycarbonylamino-methyl)-2-trifluoromethanesulfonyloxy-phenyl ester | 10.0 mmol, 5 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C14H15F6NO8S2
reactant | diethyl phosphite | 20.3 mmol, 2.8 mL | P(OCC)(OCC)[O-]
reactant | N-methylmorpholine | 25.1 mmol, 2.7 mL | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 1.2 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-(tert-Butoxycarbonylamino-methyl)-2-(diethoxy-phosphoryl)-phenyl]-phosphonic Acid Diethyl Ester | 2.0 g, 42% | C(C)OP(OCC)(=O)C1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)P(=O)(OCC)OCC | C20H35NO8P2
